US08809538B2
3-phenyl-5-isoxazolecarbaldehyde
A solution of (3-phenylisoxazol-5-yl) methanol (10.0 g) and 2-iodoxybenzoic acid (24.0 g) in ethyl acetate (350 mL) was refluxed overnight. The mixture was cooled to room temperature, filtered and concentrated. The resulting solids were triturated (hexane:diethyl ether=1:1) to obtain the title compound (8.22 g) having the following physical data.

reactant | (3-phenylisoxazol-5-yl) methanol | 10.0 g | C1(=CC=CC=C1)C1=NOC(=C1)CO | C10H9NO2
reactant | 2-iodoxybenzoic acid | 24.0 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | 3-phenyl-5-isoxazolecarbaldehyde | 8.22 g | C1(=CC=CC=C1)C1=NOC(=C1)C=O | C10H7NO2
